US06992087B2
Preparation of trans-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting trans-(+/−)-4-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol and 2-methyl-4-methoxyphenylboronic acid and making non-critical variations provided the title compound as a light yellow solid. IR (diffuse reflectance) 3363, 1603, 1571, 1490, 1447, 1393, 1303, 1233, 1208, 1177, 1170, 1103, 1059, 887, 849 cm−1; OAMS supporting ions at: ESI+ 358.1; MS (EI) m/z 357 (M+); HRMS (FAB) calcd for C20H27N3O3+H1 358.2130, found 358.2142.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | trans-(+/−)-4-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@@H](COC1)O)CC | C12H18BrN3O2
reactant | 2-methyl-4-methoxyphenylboronic acid | CC1=C(C=CC(=C1)OC)B(O)O | C8H11BO3
product | trans-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@H]1[C@@H](COC1)O | C20H27N3O3
